* C:\Users\Zerbs\Documents\Study\Shemota\lab4\flash.asc
A1 N002 0 0 N004 0 0 RED 0 AND
A2 S1 0 0 0 0 N002 0 0 BUF
A3 S0 0 0 0 0 N004 0 0 BUF
A4 S1 0 0 S0 0 0 GREEN 0 AND
A5 0 N002 S0 0 0 0 N005 0 AND
A6 0 N004 S1 0 0 0 N008 0 AND
A7 N005 0 0 0 N008 0 YELLOW 0 OR
A8 YELLOW 0 N001 feel_free 0 0 N006 0 AND
A9 0 0 FORCE_RED S1 0 0 N003 0 AND
A10 S0 0 FORCE_RED 0 0 0 N013 0 AND
A11 N003 N006 0 N007 0 0 T1 0 OR
A12 N010 0 N012 N013 0 0 T0 0 OR
XX1 T1 CLK CLEAR PRESET S1 N001 tflop
XX2 T0 CLK CLEAR PRESET S0 N009 tflop
VDD1 VDD 0 1
A15 0 S1 N009 feel_free 0 0 N007 0 AND
A16 FORCE_RED 0 0 0 0 feel_free 0 0 BUF
A17 GREEN 0 feel_free 0 N011 0 N012 0 AND
A18 0 feel_free 0 RED 0 0 N010 0 AND
A20 FORCE_GREEN 0 0 0 0 N011 0 0 BUF

* block symbol definitions
.subckt tflop T CLK CLEAR PRESET Q /Q
A2 N001 0 0 0 N003 0 N002 0 OR
A3 0 /Q T 0 0 0 N001 0 AND
A4 0 0 N004 Q 0 0 N003 0 AND
A5 T 0 0 0 0 N004 0 0 BUF
XU1 P001 N002 CLK N002 N005 Q /Q VCC 0 74HCT109 VCC=1 SPEED=0.001 TRIPDT=1e-11
A1 PRESET 0 0 0 0 P001 0 0 BUF
A6 CLEAR 0 0 0 0 N005 0 0 BUF
.include 74hct.lib
.ends tflop

.tran 0 100n 0 1p
.include 90nm_bulk.txt
.backanno
.end
