* C:\Users\Zerbs\Documents\Study\Shemota\lab4\second_task.asc
A7 N006 0 0 N008 0 0 red 0 AND
A8 S1 0 0 0 0 N006 0 0 BUF
A9 S0 0 0 0 0 N008 0 0 BUF
A11 S1 0 0 S0 0 0 green 0 AND
A10 0 N006 S0 0 0 0 N009 0 AND
A12 0 N008 S1 0 0 0 N014 0 AND
A13 N009 0 0 0 N014 0 yellow 0 OR
A14 yellow 0 N005 feel_free 0 0 N011 0 AND
A16 0 0 force_red S1 0 0 N007 0 AND
A17 S0 0 force_red 0 0 0 N020 0 AND
A22 N007 N011 0 N013 0 0 T1 0 OR
A23 N016 0 N018 N020 0 0 T0 0 OR
XX1 T1 clk clr 0 S1 N005 tflop
XX2 T0 clk clr 0 S0 N015 tflop
V1 N012 0 PULSE(0 1 4n 10p 10p 20n 500n)
XX3 N012 P001 VDD inverter
V2 N003 0 PULSE(0 1 4n 10p 10p 3n 6n)
XX4 N003 clk VDD inverter
V3 N001 0 PULSE(0 1 0n 10p 10p 3n 500n)
XX5 N001 N002 VDD inverter
R1 N004 0 100k
C1 N004 0 100f
XX6 red N004 VDD inverter
R2 N019 0 100k
C2 N019 0 100f
XX7 green N019 VDD inverter
R3 N010 0 100k
C3 N010 0 100f
XX8 yellow N010 VDD inverter
VDD1 VDD 0 1
A1 P001 0 0 0 0 force_red 0 0 BUF
A2 N002 0 0 0 0 clr 0 0 BUF
V4 N021 0 PULSE(0 1 14n 10p 10p 40n 500n)
XX9 N021 N022 VDD inverter
A3 0 S1 N015 feel_free 0 0 N013 0 AND
A6 force_red 0 0 0 0 feel_free 0 0 BUF
A4 green 0 feel_free 0 N017 0 N018 0 AND
A24 0 feel_free 0 red 0 0 N016 0 AND
A26 N022 0 0 0 0 force_green 0 0 BUF
A5 force_green 0 0 0 0 N017 0 0 BUF

* block symbol definitions
.subckt tflop T CLK CLEAR PRESET Q /Q
A2 N001 0 0 0 N003 0 N002 0 OR
A3 0 /Q T 0 0 0 N001 0 AND
A4 0 0 N004 Q 0 0 N003 0 AND
A5 T 0 0 0 0 N004 0 0 BUF
XU1 P001 N002 CLK N002 N005 Q /Q VCC 0 74HCT109 VCC=1 SPEED=0.001 TRIPDT=1e-11
A1 PRESET 0 0 0 0 P001 0 0 BUF
A6 CLEAR 0 0 0 0 N005 0 0 BUF
.include 74hct.lib
.ends tflop

.subckt inverter VIN VOUT VDD
M1 VOUT VIN 0 N002 NMOS l=90n w='{T_SIZE}*200n'
M2 VOUT VIN VDD N001 PMOS l=90n w='{T_SIZE}*400n'
.param T_SIZE=1
.ends inverter

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Zerbs\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 100n 0 1p
.include 90nm_bulk.txt
.backanno
.end
